US04144347
A 5.0 g. sample of powdered 3-bromobenzofuran on a glass dish is placed next to a container of nitric acid. Sodium nitrite is added periodically to the nitric acid, and the entire experiment is covered with a bell jar. After about 15 minutes the powder becomes an oil. After 12 hours the product is dissolved in hot methanol and slowly crystallized by cooling. Recrystallization from methanol provides yellow crystals of 3-bromo-2-nitrobenzofuran, m.p. 130°-132° C. (lit. 132° C.).

reactant | 3-bromobenzofuran | BrC1=COC2=C1C=CC=C2 | C8H5BrO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | Sodium nitrite | N(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-bromo-2-nitrobenzofuran | BrC1=C(OC2=C1C=CC=C2)[N+](=O)[O-] | C8H4BrNO3
